US05843942
A solution of 5-bromo-2-(2-thienylmethoxy)benzyl alcohol (0.53 g, 1.77 mmoles) in dichloromethane (12 ml) was cooled in an ice bath and treated with carbon tetrabromide (0.73 g, 2.2 mmol) polymer bound triphenylphosphine (0.65 g, 1.95 mmol) and stirred at ambient temperature for 42 hours. The reaction was filtered and evaporated. Chromatography (eluant: ethyl acetate/hexane) gave 5-bromo-2-(2-thienylmethoxy)benzyl bromide as a white solid (0.29, 45%).

reactant | 5-bromo-2-(2-thienylmethoxy)benzyl alcohol | 1.77 mmoles, 0.53 g | BrC=1C=CC(=C(CO)C1)OCC=1SC=CC1 | C12H11BrO2S
reactant | carbon tetrabromide | 2.2 mmol, 0.73 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.95 mmol, 0.65 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 5-bromo-2-(2-thienylmethoxy)benzyl bromide | BrC=1C=CC(=C(CBr)C1)OCC=1SC=CC1 | C12H10Br2OS
